US06063932
N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide
A mixture of 2.0 g of α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanol, 4.0 g of 2,6-difluorobenzonitrile, and 15 mL of dichloromethane was cooled to 5° C. and 0.8 mL of conc. sulfuric acid was added dropwise over 7 min. After 30 min, ice was added, the mixture was diluted with hexanes, and the crude product was filtered and dried to afford 1.0 g of product, m.p. 144-145° C. 1H-NMR (CDCl3): δ4.0 (dq, 2), 5.6 (m, 1H), 6.75 (br d, 1H), 6.85 (t, 1H, J=60 Hz), 7.0 (t, 2H), 7.4 (m, 1H), 7.5 (d, 2H), 7.6 (m, 6H). The filtrate was extracted with ethyl acetate; the extract was washed with water, concentrated, and chromatographed on silica gel to afford an additional 0.5 g of product, corresponding to a total yield of 52%.

reactant | α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanol | 2.0 g | ClCC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F | C15H13ClF2OS
reactant | 2,6-difluorobenzonitrile | 4.0 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | sulfuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide | 1.0 g | ClCC(C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F)NC(C1=C(C=CC=C1F)F)=O | C22H16ClF4NOS
